US09302991B2
<Step-10>:2-methoxy-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine (single enantiomer
(2-methoxy-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate (0.046 g, 0.131 mmol, Step-9, single enantiomer) and 4M hydrochloric acid ethyl acetate solution (4 mL) is stirred at room temperature for 2 hours. After removal of the solvent, the residue is diluted with methanol (4 mL) and applied onto a strong cation exchange cartridge (BondElute(registered trademark) SCX, 1 g/6 mL, Varian Inc.), and the solid phase matrix is rinsed with methanol (5 mL). The crude mixture is eluted with 1M ammonia in methanol (5 mL) and concentrated under reduced pressure to give 0.030 g (91% yield) of the title compound as colorless syrup.

reactant | (2-methoxy-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamate | 0.131 mmol, 0.046 g | COCC(C=1C=NC(=CC1)OCC(F)(F)F)NC([O-])=O
reactant | hydrochloric acid ethyl acetate | 4M, 4 mL | C(C)OC(C)=O.Cl
product | 2-methoxy-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine | 0.030 g, 91% yield | COCC(N)C=1C=NC(=CC1)OCC(F)(F)F | C10H13F3N2O2
